US04278678
Into 15 ml of anhydrous ethanol, 205 mg (0.0089 mole) of methallic sodium was dissolved and then, 1.8 g (0.0089 mole) of p-phenoxyphenol was added. The mixture was stirred at room temperature for about 30 minutes. Ethanol was distilled off under a reduced pressure and 5 ml of dimethyl formamide was added to the residue and dimethyl formamide was distilled off under a reduced pressure and then, 15 ml of dimethyl formamide was added to the residue to dissolve it. Into the solution, 2.5 g (0.010 mole) of ethyl α-bromo-α-cyclohexylacetate was added. The mixture was refluxed for 8 hours and then diemethyl formamide was distilled off under a reduced pressure. The residue was admixed with 50 ml of water and extracted twice with 50 ml of benzene. The benzene layers were combined and washed three times with 30 ml of 5% NaOH aq.sol. and then with water and dehydrated over sodium sulfate and distilled in vacuum to obtain 1.4 g of ethyl α-(p-phenoxyphenoxy)α-cyclohexylacetate (yield: 42.6%).

reactant | sodium | 0.0089 mole, 205 mg | [Na] | Na
reactant | p-phenoxyphenol | 0.0089 mole, 1.8 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | ethyl α-bromo-α-cyclohexylacetate | 0.010 mole, 2.5 g | BrC(C(=O)OCC)C1CCCCC1 | C10H17BrO2
reactant | formamide | C(=O)N | CH3NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl α-(p-phenoxyphenoxy)α-cyclohexylacetate | 1.4 g, yield: 42.6% | O(C1=CC=CC=C1)C1=CC=C(OC(C(=O)OCC)C2CCCCC2)C=C1 | C22H26O4
